US06593330B2
*Prepared from 6-methoxy-2-naphthol and ethylene carbonat according to the procedure of Example 134, step 1, in WO 00/76984. The reaction mixture was refluxed for 2 h. Pure 2-(6-methoxy-naphthalen-2-yloxy)ethanol was obtained by recrystallization from MeOH/CHCl3/n-hexane.

reactant | 6-methoxy-2-naphthol | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | ethylene carbonat | C1(OCCO1)=O | C3H4O3
solvent | MeOH CHCl3 n-hexane | CO.C(Cl)(Cl)Cl.CCCCCC
product | 2-(6-methoxy-naphthalen-2-yloxy)ethanol | COC=1C=C2C=CC(=CC2=CC1)OCCO | C13H14O3
